2172-09-21 09:04:00 Physician Attending Progress Note
Chief Complaint: DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 22 yr old woman with DKA
   24 Hour Events:
 MULTI LUMEN - START [**2172-9-20**] 10:02 PM
 PAN CULTURE - At [**2172-9-20**] 11:13 PM temp 101.2
 EKG - At [**2172-9-21**] 12:26 AM
 ARTERIAL LINE - START [**2172-9-21**] 01:22 AM
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Rash;
   Morphine
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2172-9-21**] 08:07 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Sq hep
   Colace
   Lanoprazole
   Synthroid
   Chlorhex
   D5W@75 cc/hr
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2172-9-21**] 08:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (98.9
   HR: 109 (107 - 130) bpm
   BP: 157/78(104) {123/60(0) - 157/81(104)} mmHg
   RR: 17 (16 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 66.6 kg (admission): 66.6 kg
   Height: 67 Inch
   CVP: 4 (4 - 4)mmHg
   Total In:
                                                                  7,372 mL
                                                                  3,586 mL
   PO:
   TF:
   IVF:
                                                                    372 mL
                                                                  3,346 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                  1,170 mL
   Urine:
                                                                  2,550 mL
                                                                  1,170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,822 mL
                                                                  2,416 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 407 (323 - 441) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.23/37/177/20/-11
   Ve: 6.6 L/min
   PaO2 / FiO2: 443
   Physical Examination
   Gen: intubated sedated and responsive to stimuli
   HEENT: PERRL
   CV: tachy II/VI murmur Lft sternal border
   Chest: scattered rhonchi
   Skin:  warm
   Neurologic: moving all ext
   Labs / Radiology
   9.4 g/dL
   370 K/uL
   100 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.5 mEq/L
   20 mg/dL
   123 mEq/L
   152 mEq/L
   28.1 %
   17.5 K/uL
        [image002.jpg]
                             [**2172-9-20**]  11:09 PM
                             [**2172-9-20**]  11:40 PM
                             [**2172-9-21**]  02:09 AM
   WBC
   24.2
   17.5
   Hct
   28.8
   28.1
   Plt
   386
   370
   Cr
   1.1
   1.0
   TropT
   <0.01
   TCO2
   16
   Glucose
   232
   100
   Other labs: PT / PTT / INR:13.6/25.7/1.2, CK / CKMB /
   Troponin-T:70//<0.01, ALT / AST:[**12-12**], Alk Phos / T Bili:101/0.1,
   Amylase / Lipase:139/75, Differential-Neuts:82.5 %, Band:4.0 %,
   Lymph:12.8 %, Mono:4.4 %, Eos:0.1 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.1 g/dL, LDH:385 IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.1
   mg/dL
   UA: neg
   UCG: neg
   CXR:
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TACHYCARDIA, OTHER
 HYPERNATREMIA (HIGH SODIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ANEMIA, CHRONIC
   1.       DKA: etiology likely a combination of med non compliance and
   possible infectious etiology.  Improving after aggressive IVF and now
   on D5W at 75 for free water repletion. LR for hypotension or profound
   tachy. CVP 4-6 if fine. Call [**Last Name (un) 72**] consult.
   2.       Fevers: DDX aspiration event while obtunded and peri
   intubation at OSH. Agree with Vanco?Levoquin while cultures pending.
   3.       Resp Failure: Intubated for airway protection and unable to
   keep up with profound acidosis. Repeat ABG and reassess for ewxtubation
   if pH better than 7.3 and mental status [**Last Name (un) 1230**] good off
   4.       ARF: resolving with hydration
   ICU Care
   Nutrition: TF if not extubated this AM
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-9-20**] 10:00 PM
   Multi Lumen - [**2172-9-20**] 10:02 PM
   Arterial Line - [**2172-9-21**] 01:22 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication: with family
   Code status: Full code
   Disposition :ICU
   Total time spent: 40
   Patient is critically ill

2172-09-23 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt d/c'd of Insulin Drip and started on Lantus/glargine
   D/c
ed Left IJ
   Pt improved affect and pain controlled
   Pt underwent CT Abd to r/o ischemic bowel
   CT Abdomen Prelim read showing no acute intrabdominal etiology for
   patients pain
   Pt reports she is
doing great
 and
wants to go home.
 Tolerated PO
   diet with some epigastric pain and nausea just after eating, but
   otherwise fine. Normal BMx1 and voiding post-foley. Mod pain in left
   lateral knee, no change from yest, relief from Dilaudid IV (x1 last
   night)
   During rounds, pt became agitated, threatening to leave AMA, and
   refusing PO medications; psych called for stat c/s.
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Rash;
   Codeine
   Rash;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Rash;
   Morphine
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2172-9-21**] 10:54 PM
   Vancomycin - [**2172-9-22**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2172-9-22**] 09:40 AM
   Heparin Sodium (Prophylaxis) - [**2172-9-22**] 10:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea
   Genitourinary: No(t) Dysuria
   Musculoskeletal: Joint pain
   Pain: [**6-30**] Severe
   Pain location: Left knee
   Flowsheet Data as of  [**2172-9-23**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.3
   HR: 93 (85 - 108) bpm
   BP: 126/67(81) {123/67(81) - 150/97(109)} mmHg
   RR: 23 (8 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.6 kg (admission): 66.6 kg
   Height: 67 Inch
                  Total In:
                                                                  2,637 mL
                                                                    400 mL
   PO:
                                                                    960 mL
                                                                    400 mL
   TF:
   IVF:
                                                                  1,677 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                  1,600 mL
   Urine:
                                                                  2,900 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -263 mL
                                                                 -1,200 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.48/37/91.[**Numeric Identifier 253**]/30/3
   Physical Examination
   GEN: NAD, lying comfortably in bed, mod pain [**1-25**] to knee pain.
   HEENT: PERRL, EOMI  MMM..
   CARD: S1, S2, tachy and regular, +II/VI systolic murmur at base and
   LSB.
   PULM: CTAB, No WRR.
   Abd:  soft NT ND +BS
   Ext:  Peripheral pulses (DP/PT) +2 b/l, no edema, tenderness over
   lateral knee.
   NEURO: normal sensation in bil UE/LE, decr strength in LLE [**1-25**] to pain
   in knee
   Labs / Radiology
   311 K/uL
   9.3 g/dL
   92 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.7 mEq/L
   3 mg/dL
   110 mEq/L
   145 mEq/L
   27.5 %
   7.3 K/uL
        [image002.jpg] Catheter IJ tip Cx: Pending; ABG: 7.48/37/92/28/3
                             [**2172-9-21**]  08:27 AM
                             [**2172-9-21**]  09:15 AM
                             [**2172-9-21**]  11:23 AM
                             [**2172-9-21**]  11:29 AM
                             [**2172-9-21**]  06:03 PM
                             [**2172-9-22**]  01:55 AM
                             [**2172-9-22**]  11:59 AM
                             [**2172-9-22**]  01:33 PM
                             [**2172-9-22**]  04:52 PM
                             [**2172-9-23**]  02:06 AM
   WBC
   10.4
   7.3
   Hct
   27.2
   27.5
   Plt
   284
   311
   Cr
   0.8
   0.8
   0.8
   0.6
   0.7
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   22
   23
   24
   28
   Glucose
   145
   118
   144
   126
   156
   92
   Other labs: PT / PTT / INR:13.6/25.7/1.2, CK / CKMB /
   Troponin-T:274/5/<0.01, ALT / AST:[**12-12**], Alk Phos / T Bili:101/0.1,
   Amylase / Lipase:139/75, Differential-Neuts:82.5 %, Band:4.0 %,
   Lymph:12.8 %, Mono:4.4 %, Eos:0.1 %, Lactic Acid:1.7 mmol/L,
   Albumin:3.1 g/dL, LDH:385 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   22yo woman with h/o IDDM admitted with DKA most likely due to poor
   medication compliance.
   # DKA:
   Resolved. Precipitating cause likely poor compliance with medications,
   possible other etiology is infection (including CAP). Pt
s electrolytes
   stabilized with decrease in lactate from 3
1.8. D/c
ed insulin gtt
   yest, pt on glargine, d/c
ed D5W and tolerating PO well.
   - continue glargine 24units SC qday; RISS; will discuss with [**Last Name (un) 72**]
   about additional insulin recs
   - PO intake for fluids
   - FSBS q2hr
   - monitor chemistries q12 and will replete as needed.
   - continue work-up for possible infectious cause as discussed below
   #Lactic Acidosis:
   Elevated lactate yesterday, possible etiologies include mesenteric
   ischemia (secondary to hypovolemia and decreased bowel perfusion;
   unlikely given no acute process in CT of abdomen), and residual lactic
   acidosis from DKA/resp failure. Lactate trending down to WNL this am.
   -Continue to monitor lactate
   -Continue to monitor vitals and resp status.
   # Fevers:
   Low grade temp ON. Possible etiologies of ON fever include knee
   infection and PNA (CAP or aspiration). Urine Legionella neg, other
   cultures pending. D/c
ed Vanco, on Levo (Day #4)
   - UCx, BCx, sputum Cx pending results.
   - Given large amount of thick secretions and risk of aspiration, will
   continue levo for total of 5days (day 1 = [**9-20**]) for possible asp PNA or
   CAP. D/c Vanco yest. Will follow cultures and CXRs.
   # Hypernatremia:
   Resolving, most likely secondary to loss of free water following DKA
   treatment.
   - PO intake to hydrate thirst, LR boluses as needed for volume
   resuscitation
   -continue to monitor electrolytes q12hr
   #Hypokalemia:
   Resolved. Most likely [**1-25**] to intracellular transfer with correction of
   DKA and insulin along with unmasking of underlying hypokalemia after
   insulin therapy.
   -continue to monitor lytes q12hr and replete as needed.
   # Respiratory failure:
   Intubated for airway protection in setting of poor mental status,
   extubated on [**2172-9-21**] [**1-25**] to improving mental status, patient has been
   saturating well in the high 90
   - continue to monitor O2 on RA.
   # Altered mental status/Agitation/Psych:
   Pt continues to have intermittent episodes of agitation; Seen by psych
   with recs as below. Began home regimen of Abilify and Celexa yest
-Per psych, Haldol 5mg IV, Ativan 2mg IV PRN agitation (with Cogentin 1mg PRN).
Minimize interventions, increase pt control by offering choices, contact PCP wit
[**Name Initial (PRE) **] regards to confirming outpatient pain management, obtain social work c/s re di
spo, and team/family meeting prior to d/c. Will follow out recommendations.
-Ct Abilify and Celexa; will begin alprazolam. 0.5mg TID
#Left Knee Pain:
Continues to c/o of left knee pain; considering low grade temp and continuing pa
in, possible etiology includes septic joint. Other possibility of pain is referr
ed pain from IO in the field by EMS. Xray showed no acute process.
-Urine GC
-Will attempt aspiration of joint to assess for infection.
-Continue Dilaudid PO for pain.
   # ARF:  Cr on presentation 2.1, Cr improving with currently at 0.6.
   ARF most likely [**1-25**] to prerenal causes such as hypotension/dehydration,
   adequate urine output.
   - follow Cr
   - renally dose medications
   # Anemia:  Hct stabilizing, currently at 27.5
   - follow HCTs
   #Hypothyroidism: TSH elevated
   -Continue levothyroxine
   # FEN: [**Doctor First Name **] diet PO. Will follow lytes and replete as needed.
   # Access:  PIV (20gauge) x 1
   # PPx:  subQ heparin, famotidine
   # Comm:  [**Name (NI) **] [**Name (NI) 1216**] [**Telephone/Fax (1) 1217**]??
   patient's home number  [**Telephone/Fax (1) 1218**]
   # Code:  full code
   # Dispo:  MICU for now; possible Call-Out if knee aspiration is
   negative.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-9-22**] 12:30 PM
   22 Gauge - [**2172-9-22**] 06:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-09-23 08:29:00 Physician Attending Progress Note
Chief Complaint: DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   21 yr old with long hx of DM and non compliance presents with DKA
   24 Hour Events:
 EKG - At [**2172-9-22**] 09:48 AM
 ARTERIAL LINE - STOP [**2172-9-22**] 12:30 PM
 MULTI LUMEN - STOP [**2172-9-23**] 03:00 AM
 CALLED OUT
   Lactate acidosis resolving
   Abd CT
   Allergies:
   Penicillins
   Rash;
   Codeine
   Rash;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Rash;
   Morphine
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2172-9-21**] 10:54 PM
   Vancomycin - [**2172-9-22**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2172-9-22**] 09:40 AM
   Heparin Sodium (Prophylaxis) - [**2172-9-22**] 10:56 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-9-23**] 08:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.3
   HR: 93 (85 - 108) bpm
   BP: 126/67(81) {123/67(81) - 150/97(109)} mmHg
   RR: 23 (8 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.6 kg (admission): 66.6 kg
   Height: 67 Inch
                  Total In:
                                                                  2,637 mL
                                                                    400 mL
   PO:
                                                                    960 mL
                                                                    400 mL
   TF:
   IVF:
                                                                  1,677 mL
   Blood products:
   Total out:
                                                                  2,900 mL
                                                                  1,600 mL
   Urine:
                                                                  2,900 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -263 mL
                                                                 -1,200 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.48/37/91.[**Numeric Identifier 253**]/30/3
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   311 K/uL
   92 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.7 mEq/L
   3 mg/dL
   110 mEq/L
   145 mEq/L
   27.5 %
   7.3 K/uL
        [image002.jpg]
                             [**2172-9-21**]  08:27 AM
                             [**2172-9-21**]  09:15 AM
                             [**2172-9-21**]  11:23 AM
                             [**2172-9-21**]  11:29 AM
                             [**2172-9-21**]  06:03 PM
                             [**2172-9-22**]  01:55 AM
                             [**2172-9-22**]  11:59 AM
                             [**2172-9-22**]  01:33 PM
                             [**2172-9-22**]  04:52 PM
                             [**2172-9-23**]  02:06 AM
   WBC
   10.4
   7.3
   Hct
   27.2
   27.5
   Plt
   284
   311
   Cr
   0.8
   0.8
   0.8
   0.6
   0.7
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   22
   23
   24
   28
   Glucose
   145
   118
   144
   126
   156
   92
   Other labs: PT / PTT / INR:13.6/25.7/1.2, CK / CKMB /
   Troponin-T:274/5/<0.01, ALT / AST:[**12-12**], Alk Phos / T Bili:101/0.1,
   Amylase / Lipase:139/75, Differential-Neuts:82.5 %, Band:4.0 %,
   Lymph:12.8 %, Mono:4.4 %, Eos:0.1 %, Lactic Acid:1.7 mmol/L,
   Albumin:3.1 g/dL, LDH:385 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 TACHYCARDIA, OTHER
 HYPERNATREMIA (HIGH SODIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ANEMIA, CHRONIC
   DKA
 gap closed, advance to bfast and if tolerates start Glargine this
   AM with 2-3 hour overlap - Appreciate [**Last Name (un) 72**] follow up
   Fevers: DDx aspiration PNA< now afebrile x 24 hours
 would RX with
   Levoquin
 complete 5 days
   Lactic Acidosis: need to confirm with repeat ABG- DDx would be bowel
   ischemia seems unlikely as she has no abd pain, benign exam, no meds
   such as HAART or metformin that we know if, intact liver function, is
   perfusing well as best we can ascertain, we will trend, and look for
   occult infection starting with knee, then bowels
   ARF: resolved with hydration
   Knee Pain
 did get IO line in field
 but would check knee films
   looking for occult effusion or fracture.
   HypoK and Hypo Phos- ongoing repletion
   Agitation: improved, appreciate psych follow up if wants to leave may
   need re eval for competence
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-9-22**] 12:30 PM
   22 Gauge - [**2172-9-22**] 06:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: